US08058488B2
Example 7 illustrates the esterification of 2,3,3,3-tetrafluoro-2-chloropropanol with acetic anhydride to produce 2,3,3,3-tetrafluoro-2-chloropropyl acetate.

reactant | 2,3,3,3-tetrafluoro-2-chloropropanol | FC(CO)(C(F)(F)F)Cl | C3H3ClF4O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2,3,3,3-tetrafluoro-2-chloropropyl acetate | C(C)(=O)OCC(C(F)(F)F)(Cl)F | C5H5ClF4O2
